US09145354B2
Step 8—To a solution of the tert-butyl N-[(1R)-1-[4-chloro-2-fluoro-3-(6-{[(4-methoxyphenyl)methyl]-amino}pyridine-3-carbonyl)phenyl]propyl]carbamate (109 g) in dichloromethane (2 vol) was carefully added trifluoroacetic acid (1 vol) at room temperature. The dichloromethane was removed under vacuum, additional trifluoroacetic acid (2 vol) was added and the mixture was stirred for 10 minutes before increasing the temperature to 70° C. and stirring overnight. The mixture was allowed to cool then poured slowly into a stirred mix of TBME (15 vol) and water (15 vol). The phases were separated and the remaining emulsion was filtered through GFA paper. The TBME layer was extracted into 2M HCl (2×3 vol) and the combined acidic extracts were basified (˜pH 12) and extracted with TBME (5×5 vol). The combined organic liquors were dried (Na2SO4) and concentrated to produce an oil/foam. The material was triturated with EtOAc to give 5-{3-[(1R)-1-aminopropyl]-6-chloro-2-fluorobenzoyl}pyridin-2-amine as a fine yellow powder 53.5 g, 84%. (Data for this compound are in Example 1).

reactant | tert-butyl N-[(1R)-1-[4-chloro-2-fluoro-3-(6-{[(4-methoxyphenyl)methyl]-amino}pyridine-3-carbonyl)phenyl]propyl]carbamate | 109 g | ClC1=C(C(=C(C=C1)[C@@H](CC)NC(OC(C)(C)C)=O)F)C(=O)C=1C=NC(=CC1)NCC1=CC=C(C=C1)OC | C28H31ClFN3O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-{3-[(1R)-1-aminopropyl]-6-chloro-2-fluorobenzoyl}pyridin-2-amine | 53.5 g, 84% | N[C@H](CC)C=1C(=C(C(=O)C=2C=CC(=NC2)N)C(=CC1)Cl)F | C15H15ClFN3O
